US05420271
Dissolve N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-ethylenediamine (500 mg, 1.95 mmol) in anhydrous dimethylformamide (10 mL), cool to 0° C. and treat with sodium hydride (56 mg, 1.85 mmol, 80% dispersion in mineral oil). Stir for 15 minutes and add allyl bromide (0.25 mL, 2.9 mmol). Stir for 2.5 hours, dilute with ethyl acetate (50 mL) and extract with water (25 mL). Separate the organic phase and wash with brine (2×20 mL). Extract the combined aqueous phases with ethyl acetate (2×5 mL), dry (Na2SO4) and evaporate the solvent in vacuo. Purify by chromatography (2:1 hexane/ethyl acetate to 3:2 hexane/ethyl acetate) to give N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-N'-(allyl)ethylenediamine (562 mg, 100%).

reactant | N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-ethylenediamine | 1.95 mmol, 500 mg | C(C)(C)(C)OC(=O)NCCNC(C(F)(F)F)=O | C9H15F3N2O3
reactant | sodium hydride | 1.85 mmol, 56 mg | [H-].[Na+]
reactant | allyl bromide | 2.9 mmol, 0.25 mL | C(C=C)Br | C3H5Br
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(t-butyloxycarbonyl)-N'-(trifluoroacetyl)-N'-(allyl)ethylenediamine | 562 mg, 100% | C(C)(C)(C)OC(=O)NCCN(CC=C)C(C(F)(F)F)=O | C12H19F3N2O3
